US09023858B2
F) 2-propyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
To a solution of 6-amino-2-propyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one (270 mg) in N,N-dimethylacetamide (15 mL) was added acryloyl chloride (0.20 mL) at 0° C., and the mixture was stirred for 30 min, and then at room temperature overnight. To the reaction mixture was added potassium carbonate (570 mg) at room temperature, and the mixture was stirred for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution under ice-cooling, and the mixture was extracted with a mixed solvent of ethyl acetate and THF. The extract was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (59.6 mg) as a solid.

reactant | 6-amino-2-propyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one | 270 mg | NC1=CC(N(C(=N1)CCC)C1=CC=C(C=C1)OCC(F)(F)F)=O | C15H16F3N3O2
reactant | acryloyl chloride | 0.20 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | potassium carbonate | 570 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 2-propyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 59.6 mg | C(CC)C=1N(C(C2=C(N1)NC(CC2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H18F3N3O3
